US04837333
A solution containing 4-methoxyphenethyl magnesium iodide (prepared from 60 g, 0.23 mol of 4-methoxyphenethyl iodide and excess magnesium turnings) in anhydrous tetrahydrofuran (200 ml) at 0° C. under a nitrogen atmosphere was treated with 3-bromoprop-1-ene (46.7 g, 0.33 mol) and then stirred at room temperature for 14 hours. The resulting solution was washed with saturated aqueous ammonium chloride solution (3×100 ml) and the aqueous washings were back extracted with dichloromethane (3×100 ml). The tetrahydrofuran and dichloromethane solutions were combined, washed with aqueous sodium thiosulphate solution, dried (MgSO4) and the solvent was evaporated off under reduced pressure to yield an oil which was distilled to yield 5-(4-methoxyphenyl)pent-1-ene as a pale yellow oil (b.p. 65° C., 0.3 mm. Hg) having the following structural characteristics:

reactant | 4-methoxyphenethyl magnesium iodide | 0.23 mol, 60 g | COC1=CC=C(CC[Mg]I)C=C1
reactant | 3-bromoprop-1-ene | 0.33 mol, 46.7 g | BrCC=C | C3H5Br
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(4-methoxyphenyl)pent-1-ene | COC1=CC=C(C=C1)CCCC=C | C12H16O
